US08536175B2
Step 26.5: 6-tert-Butoxycarbonylamino-nicotinic acid ethyl ester
A solution of di-tert-butyl dicarbonate (1.7 g, 7.8 mmol, 1.3 equiv) in CH3CN (20 mL) is added dropwise to a suspension of ethyl 6-aminonicotinate (1 g, 6.0 mmol) and DMAP (73 mg, 0.6 mmol, 0.1 equiv) in CH3CN (10 mL) at rt. The reaction mixture was stirred for 4 h at it and concentrated. The residue was diluted with EtOAc and H2O, and extracted with EtOAc. The organic phase was washed with H2O and brine, dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel column chromatography (Hex/EtOAc, 4:1) to afford 1.18 g of the title compound as a white solid: ES-MS: 265.1 [M−H]−; tR=4.61 min (System 1);

reactant | di-tert-butyl dicarbonate | 7.8 mmol, 1.7 g, 1.3 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 6-aminonicotinate | 6.0 mmol, 1 g | NC1=NC=C(C(=O)OCC)C=C1 | C8H10N2O2
solvent | CH3CN | 20 mL | CC#N | C2H3N
catalyst | DMAP | 0.6 mmol, 73 mg, 0.1 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 6-tert-Butoxycarbonylamino-nicotinic acid ethyl ester | 1.18 g | C(C)OC(C1=CN=C(C=C1)NC(=O)OC(C)(C)C)=O | C13H18N2O4
